US08455477B2
3-ethynyl-4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine (20.0 mg, 0.079 mmol), 4-iodo-5-methyl-1-phenyl-1H-pyrazole (33.8 mg, 0.119 mmol), allylpalladium chloride dimer (2.9 mg, 7.93 mmol), tri(2-furyl)phosphine (3.7 mg, 0.016 mmol) and copper (I) iodide (0.8 mg, 4 mmol) were combined into one vial fitted with a Teflon septum. The vial was and flushed with nitrogen and acetonitrile (0.8 mL) and diisopropylamine (0.034 mL, 0.238 mmol) were added. After sparging with nitrogen for 5 minutes, the reaction was heated to 45° C. for one hour. The mixture was cooled to ambient temperature, diluted with ethyl acetate and washed with saturated aqueous sodium bicarbonate. The organic layer was separated, and the aqueous layer was back extracted with ethyl acetate two times. The combined organic layers were dried over sodium sulfate, filtered and concentrated. The residue was purified by preparative HPLC reverse phase (C-18), eluting with acetonitrile/water+0.05% TFA. The fractions containing product were combined and diluted in ethyl acetate, then washed with aqueous sodium bicarbonate and dried over sodium sulfate. The solution was filtered and concentrated under reduced pressure to give 4-methoxy-3-[(5-methyl-1-phenyl-1H-pyrazol-4-yl)ethynyl]-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine.

reactant | 3-ethynyl-4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine | 0.079 mmol, 20.0 mg | C(#C)C=1C=NN2C1C(=CC(=C2)C=2C=NN(C2)C)OC | C14H12N4O
reactant | 4-iodo-5-methyl-1-phenyl-1H-pyrazole | 0.119 mmol, 33.8 mg | IC=1C=NN(C1C)C1=CC=CC=C1 | C10H9IN2
reactant | tri(2-furyl)phosphine | 0.016 mmol, 3.7 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
reactant | diisopropylamine | 0.238 mmol, 0.034 mL | C(C)(C)NC(C)C | C6H15N
catalyst | allylpalladium chloride dimer | 7.93 mmol, 2.9 mg | [CH2-]C=C.[CH2-]C=C.Cl[Pd+].Cl[Pd+]
catalyst | copper (I) iodide | 4 mmol, 0.8 mg | [Cu]I
solvent | acetonitrile | 0.8 mL | C(C)#N | C2H3N
product | 4-methoxy-3-[(5-methyl-1-phenyl-1H-pyrazol-4-yl)ethynyl]-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine | COC=1C=2N(C=C(C1)C=1C=NN(C1)C)N=CC2C#CC=2C=NN(C2C)C2=CC=CC=C2 | C24H20N6O
